US06239131B1
Preparation of 1-tert-butylcarbonylmethyl-2-oxo-3-amino-5-(2-fluorophenyl)-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
1-tert-Butylcarbonylmethyl-2-oxo-3-benzyloxycarbonylamino-5-(2-fluorophenyl)-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (205 mg) was dissolved in methanol (10 ml), 10% palladium carbon (30 mg) was added, under hydrogen atmosphere the filtration, the filtrate was concentrated under reduced pressure, to thereby obtain 150 mg of the titled compound (Yield: 100%).

reactant | 1-tert-Butylcarbonylmethyl-2-oxo-3-benzyloxycarbonylamino-5-(2-fluorophenyl)-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 205 mg | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C2=C(C=CC=C2)F)NC(=O)OCC2=CC=CC=C2)=O | C29H30FN3O4
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium carbon | 30 mg | [C].[Pd]
product | 1-tert-butylcarbonylmethyl-2-oxo-3-amino-5-(2-fluorophenyl)-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 150 mg, Yield: 100% | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C2=C(C=CC=C2)F)N)=O | C21H24FN3O2
